US09238665B2
Into a glass reaction vessel equipped with a cooling apparatus were added 0.015 mmol of bis(dicyclopentyl(2-methoxyphenyl)phosphine)dichloropalladium(II), 1.5 mmol of 3-bromothiophene, 2.25 mmol of 3-thiopheneboronic acid, 3.0 mmol of potassium phosphate and 4 mL of n-butanol. The resultant mixture was stirred with heating at 100° C. for 4 hours. The resultant reaction mixture was cooled down to room temperature, 20 mL of water was added, and the mixture was extracted with 20 mL of diethyl ether twice. The resultant organic layers were mixed, and dried over anhydrous magnesium sulfate, then, filtrated, to obtain a solution. This solution was concentrated, and purified by silica gel column chromatography, to obtain 3-(3-thienyl)-thiophene with a yield of 98%.

reactant | 3-bromothiophene | 1.5 mmol | BrC1=CSC=C1 | C4H3BrS
reactant | 3-thiopheneboronic acid | 2.25 mmol | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium phosphate | 3.0 mmol | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | n-butanol | 4 mL | C(CCC)O | C4H10O
solvent | water | 20 mL | O | H2O
product | 3-(3-thienyl)-thiophene | yield of 98% | S1C=C(C=C1)C1=CSC=C1 | C8H6S2
